US04000144
1 mol of 4-[4-(1-adamantyl)-phenoxy]-butyric acid is dissolved in excess ethanol and boiled, with addition of 3% of concentrated sulphuric acid, for 3 hours under reflux, with exclusion of moisture. The product is concentrated to half its volume and partitioned between methylene chloride and water. The organic phase is washed until neutral, dried with sodium sulphate and evaporated in vacuo to give 4-[4-(1-adamantyl)-phenoxy]-butyric acid ethyl ester of melting point 45°-46° C.

reactant | 4-[4-(1-adamantyl)-phenoxy]-butyric acid | 1 mol | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCCC(=O)O)C=C2 | C20H26O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | 4-[4-(1-adamantyl)-phenoxy]-butyric acid ethyl ester | C(C)OC(CCCOC1=CC=C(C=C1)C12CC3CC(CC(C1)C3)C2)=O | C22H30O3
